US07576108B2
b: (E)-3-Cyclohexyl-2-(4-isopropylsulfanyl-phenyl)-acrylic acid ethyl ester
Add potassium acetate (2.5 g, 26 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (2.42 g, 9.52 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (629 mg, 0.86 mmol) to a solution of 1-bromo-4-isopropylsulfanyl-benzene (2.0 g, 8.65 mmol) in 30 mL DMF and stir 2 hour at 80° C. Then add (Z)-2-bromo-3-cyclohexyl-acrylic acid ethyl ester is (4.5 g, 17.3 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (629 mg, 0.86 mmol) and sodium carbonate solution (2 M, 21.0 mL, 42.0 mmol) and stir at 80° C. over night. Add 100 mL ethyl acetate and filter. Wash with water and brine, filter through a hydrophobic filter paper and concentrate. Further purification via silica gel column chromatography, eluting with a gradient from 100:0 to 98:2 hexane:ethyl acetate affords the title compound as yellow oil (1.25 g). MS (m/e): 333 (M+H).

reactant | potassium acetate | 26 mmol, 2.5 g | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 9.52 mmol, 2.42 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 1-bromo-4-isopropylsulfanyl-benzene | 8.65 mmol, 2.0 g | BrC1=CC=C(C=C1)SC(C)C | C9H11BrS
reactant | (Z)-2-bromo-3-cyclohexyl-acrylic acid ethyl ester | C(C)OC(/C(=C/C1CCCCC1)/Br)=O | C11H17BrO2
reactant | sodium carbonate | 42.0 mmol, 2 M, 21.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.86 mmol, 629 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.86 mmol, 629 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-Cyclohexyl-2-(4-isopropylsulfanyl-phenyl)-acrylic acid ethyl ester | 1.25 g | C(C)OC(\C(=C\C1CCCCC1)\C1=CC=C(C=C1)SC(C)C)=O | C20H28O2S
